US08202858B2
(4-Aminomethyl-2-fluoro-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Hydrochloride
[3-Fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzyl]-carbamic acid tert-butyl ester from Example E90.1 (1.25 g, 2.8 mmol) was re-acted with 4N HCl/dioxan using an analogous procedure to that described for Example E4.2 to yield the title compound (11.0 g, 97%).

reactant | [3-Fluoro-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-benzyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1=CC(=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F)=O | C24H26FN5O3
reactant | HCl dioxan | 4N | Cl.O1CCOCC1
product | (4-Aminomethyl-2-fluoro-phenyl)-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone Hydrochloride | 11.0 g, 97% | Cl.NCC1=CC(=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)F | InChI=1S/C19H18FN5O.ClH/c1-24-18-13(10-22-24)11-25(17-5-3-2-4-16(17)23-18)19(26)14-7-6-12(9-21)8-15(14)20;/h2-8,10,23H,9,11,21H2,1H3;1H
